US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one (0.22 g, 0.70 mmol) and 3-bromopyridine (0.70 mL, 7.0 mmol) in piperidine (2 mL) under an argon atmosphere were added tetakis(triphenylphosphine)palladium(0) (0.034 g, 4%), copper(I) iodide (0.009 g, 6%) and a small crystal of triphenylphosphine, and the mixture was heated at 80°-85° C. for 0.5 h. Ammonium chloride was added, the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 35:65 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)cyclohexan-1-one as an off-white solid (0.22 g, 80%). The product was further triturated from ether-hexanes, mp 88°-89° C. Anal. (C25H27NO3.0.375 H2O) calcd: C, 75.78; H, 7.03; N, 3.53; found: C, 75.77; H, 6.89; N, 3.40.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one | 0.70 mmol, 0.22 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 3-bromopyridine | 7.0 mmol, 0.70 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | copper(I) iodide | 0.009 g | [Cu]I
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)cyclohexan-1-one | 0.22 g, 80% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC=NC=C1 | C25H27NO3
